US09193723B2
N-[(3-chloroimidazo[1,2-a]pyridin-7-yl)methyl]-4-[1-(2-methylpropanoyl)piperidin-4-yl]benzamide
A solution of N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(1-isobutyrylpiperidin-4-yl)benzamide (0.025 g, 0.062 mmol) in chloroform (1.030 ml) was treated with N-chlorosuccinimide (9.49 mg, 0.071 mmol) and the reaction was stirred at ambient temperature for 16 hours. The reaction was concentrated under a stream of warm nitrogen. The residue was purified by normal phase chromatography to give the title compound. 1H NMR (500 MHz, methanol-d4) δ ppm 8.67 (d, J=7.0 Hz, 1H), 8.11 (s, 1H), 7.89-7.83 (m, 2H), 7.81 (s, 1H), 7.57 (dd, J=7.1, 1.5 Hz, 1H), 7.43-7.37 (m, 2H), 4.80-4.75 (m, 2H), 4.75-4.67 (m, 1H), 4.25-4.16 (m, 1H), 3.28-3.18 (m, 1H), 3.07-2.88 (m, 2H), 2.79-2.66 (m, 1H), 2.02-1.85 (m, 2H), 1.75-1.53 (m, 2H), 1.17-1.08 (m, 6H); MS (ESI(+)) m/e 439 (M+H)+.

reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(1-isobutyrylpiperidin-4-yl)benzamide | 0.062 mmol, 0.025 g | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCN(CC2)C(C(C)C)=O)=O | C24H28N4O2
reactant | N-chlorosuccinimide | 0.071 mmol, 9.49 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 1.030 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(3-chloroimidazo[1,2-a]pyridin-7-yl)methyl]-4-[1-(2-methylpropanoyl)piperidin-4-yl]benzamide | ClC1=CN=C2N1C=CC(=C2)CNC(C2=CC=C(C=C2)C2CCN(CC2)C(C(C)C)=O)=O | C24H27ClN4O2
